US08071593B2
Preparation of 3-(4-methylpiperazin-1-yl)propyl [3-(5-methyl-2-oxooxazolo-[4,5-b]pyridin-3-ylmethyl)phenyl]carbamate
98 mg (0.65 mmol) of 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one, 200 mg (0.65 mmol) of 3-(4-methylpiperazin-1-yl)propyl (3-hydroxymethylphenyl)carbamate and 325 mg (0.98 mmol) of polymer-bound triphenylphosphine (3 mmol/g) are suspended in 5 ml of DMF, and the mixture is shaken for 30 min. 229 mg (0.98 mmol) of di-tert-butyl azodicarboxylate are subsequently added. The reaction mixture is shaken at room temperature. The reaction mixture is filtered and rinsed with THF, and the filtrate is evaporated. The residue is purified by column chromatography on silica gel.

reactant | 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one | 0.65 mmol, 98 mg | CC1=CC=C2C(=N1)NC(O2)=O | C7H6N2O2
reactant | 3-(4-methylpiperazin-1-yl)propyl (3-hydroxymethylphenyl)carbamate | 0.65 mmol, 200 mg | OCC=1C=C(C=CC1)NC(OCCCN1CCN(CC1)C)=O | C16H25N3O3
reactant | triphenylphosphine | 0.98 mmol, 325 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.98 mmol, 229 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(4-methylpiperazin-1-yl)propyl [3-(5-methyl-2-oxooxazolo-[4,5-b]pyridin-3-ylmethyl)phenyl]carbamate | CC1=CC=C2C(=N1)N(C(O2)=O)CC=2C=C(C=CC2)NC(OCCCN2CCN(CC2)C)=O | C23H29N5O4
